US05162552
A solution of 288 g of n-butyraldehyde in 288 g of 2-formyl-5,5-dimethyl-1,3-dioxane is reacted as described in Example 3, and 285.6 g (72.1% of theory) of 4-neopentylglycol acetal of 2-ethylfumardialdehyde of boiling point 82°-84° C./1 mbar are obtained by fractional distillation, in addition to 128 g of 2-ethylhexenal as light ends.

reactant | n-butyraldehyde | 288 g | C(CCC)=O | C4H8O
solvent | 2-formyl-5,5-dimethyl-1,3-dioxane | 288 g | C(=O)C1OCC(CO1)(C)C | C7H12O3
product | 2-ethylhexenal | 128 g | C(C)C(C=O)=CCCC | C8H14O
